US07799779B2
a) 3-(3-Methoxypropoxy)phenylboronic acid
6.71 ml of n-butyllithium solution (1.6M in hexane) are added dropwise to a solution of 2.5 g of 1 -bromo-3-(3-methoxypropoxy)benzene in 14 ml of dry tetrahydrofuran at −78° C. After stirring at this temperature for 15 minutes, 2.78 ml of triisopropyl borate are added, and the mixture is then slowly warmed to room temperature, 20 ml of 1N ,HCl and 5 ml of conc. HCl are added to the reaction mixture, and the organic solvents are evaporated off in vacuo. The precipitate which has separated out is filtered off with suction and washed twice with ice-water. Drying under high vacuum affords 0.987 g of the title compound as a yellowish brown solid. Rt=3.04.

reactant | n-butyllithium | 1.6M, 6.71 ml | C(CCC)[Li]
reactant | 1 -bromo-3-(3-methoxypropoxy)benzene | 2.5 g | BrC1=CC(=CC=C1)OCCCOC | C10H13BrO2
reactant | triisopropyl borate | 2.78 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | Cl | ClH
reactant | HCl | 5 ml | Cl | ClH
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
product | 3-(3-Methoxypropoxy)phenylboronic acid | 0.987 g | COCCCOC=1C=C(C=CC1)B(O)O | C10H15BO4
